US04299831
Using the procedure of Example 2, 27.2 g of 2,8-bis-(trifluoromethyl)-4-hydroxy-3-quinoline-carboxylic acid chloride and 6.38 g of 3-amino-5-methyl-isoxazole were reacted to obtain 12.8 g of 2,8-bis-(trifluoromethyl)-4-hydroxy-N-(5-methyl-isoxazol-3-yl)-3-quinoline-carboxamide melting at 216° C.

reactant | 2,8-bis-(trifluoromethyl)-4-hydroxy-3-quinoline-carboxylic acid chloride | 27.2 g | FC(C1=NC2=C(C=CC=C2C(=C1C(=O)Cl)O)C(F)(F)F)(F)F | C12H4ClF6NO2
reactant | 3-amino-5-methyl-isoxazole | 6.38 g | NC1=NOC(=C1)C | C4H6N2O
product | 2,8-bis-(trifluoromethyl)-4-hydroxy-N-(5-methyl-isoxazol-3-yl)-3-quinoline-carboxamide | 12.8 g | FC(C1=NC2=C(C=CC=C2C(=C1C(=O)NC1=NOC(=C1)C)O)C(F)(F)F)(F)F | C16H9F6N3O3
